US07772285B2
5.80 g of 3-{5-[4-(cyclopentyloxy)-2-hydroxybenzoyl]-2-[(3-hydroxy-1,2-benzisoxazol-6-yl)methoxy]phenyl} propanoic acid was suspended in 58 mL of methylene chloride, to which 6.2 mL of triethylamine was added at room temperature followed by addition of 3.44 g of trityl chloride in an ice bath, and this mixture was stirred for 30 minutes at room temperature. The reaction mixture to which water was added was adjusted to pH 3 with 6M hydrochloric acid, and the organic phase was separated therefrom. After the resultant organic phase was washed with water, the solvent was distilled out under reduced pressure. The resultant residue was washed with hexane and then purified by silica gel column chromatography [eluent; chloroform:ethanol=50:1] to yield 6.83 g of 3-{5-[4-(cyclopentyloxy)-2-hydroxybenzoyl]-2-[(3-oxo-2-trityl-2,3-dihydro-1,2-benzisoxazol-6-yl)methoxy]phenyl} propanoic acid as yellow solid.

reactant | 3-{5-[4-(cyclopentyloxy)-2-hydroxybenzoyl]-2-[(3-hydroxy-1,2-benzisoxazol-6-yl)methoxy]phenyl} propanoic acid | 5.80 g | C1(CCCC1)OC1=CC(=C(C(=O)C=2C=CC(=C(C2)CCC(=O)O)OCC2=CC3=C(C(=NO3)O)C=C2)C=C1)O | C29H27NO8
reactant | triethylamine | 6.2 mL | C(C)N(CC)CC | C6H15N
reactant | trityl chloride | 3.44 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)Cl | C19H15Cl
reactant | hydrochloric acid | 6M | Cl | ClH
solvent | methylene chloride | 58 mL | C(Cl)Cl | CH2Cl2
solvent | water | O | H2O
product | 3-{5-[4-(cyclopentyloxy)-2-hydroxybenzoyl]-2-[(3-oxo-2-trityl-2,3-dihydro-1,2-benzisoxazol-6-yl)methoxy]phenyl} propanoic acid | 6.83 g | C1(CCCC1)OC1=CC(=C(C(=O)C=2C=CC(=C(C2)CCC(=O)O)OCC2=CC3=C(C(N(O3)C(C3=CC=CC=C3)(C3=CC=CC=C3)C3=CC=CC=C3)=O)C=C2)C=C1)O | C48H41NO8
